US07897792B2
Dimethylcarbamic acid 4-fluoromethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester
Acetonitrile (1.0 mL) was added to dimethylcarbamic acid 4-bromomethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester (compound 6b-1-4) (24.0 mg), and potassium fluoride (3.1 mg) and 18-crown-6 (13.2 mg) were added to the resultant suspension while stirring at room temperature. The mixture was stirred at 60° C. for 4 hours, potassium fluoride (3.1 mg) and 18-crown-6 (13.2 mg) were then added to the reaction solution, and the mixture was further stirred at 60° C. for 1.5 hours. This reaction solution was poured into 1N hydrochloric acid (0.110 mL) diluted with ice water (20 mL), and then extracted with ethyl acetate. The resultant organic layer extraction liquid was washed with saturated saline, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure, and the resultant residue was purified by thin layer silica gel chromatography (hexane:ethyl acetate=1:1) to yield the title compound (14.7 mg).

reactant | dimethylcarbamic acid 4-bromomethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 24.0 mg | BrCC1=C(C(OC2=C1C=CC(=C2)OC(N(C)C)=O)=O)CC2=C(C(=CC=C2)[N+](=O)[O-])F | C20H16BrFN2O6
reactant | potassium fluoride | 3.1 mg | [F-].[K+]
reactant | 18-crown-6 | 13.2 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium fluoride | 3.1 mg | [F-].[K+]
reactant | 18-crown-6 | 13.2 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | hydrochloric acid | 1N, 0.110 mL | Cl | ClH
solvent | Acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | Dimethylcarbamic acid 4-fluoromethyl-3-(2-fluoro-3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 14.7 mg | FCC1=C(C(OC2=C1C=CC(=C2)OC(N(C)C)=O)=O)CC2=C(C(=CC=C2)[N+](=O)[O-])F | C20H16F2N2O6
